US04163849
6-chloro-2-(3-oxo-1-piperazinyl)-pyrazine
A mixture of 10.0 g (0.0067 mole) of 2,6-dichloropyrazine and 14 g (0.14 mole) of 2-oxopiperazine in 100 ml of acetonitrile is refluxed 1.5 hour with stirring under N2. The mixture is concentrated under vacuum, the residue titrated with water and filtered, and the crude solid recrystallized from water (charcoal treatment) to give off-white plates of the subject compound, 7.7 g, mp 192°-193° C.

reactant | 2,6-dichloropyrazine | 0.0067 mole, 10.0 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 2-oxopiperazine | 0.14 mole, 14 g | O=C1NCCNC1 | C4H8N2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 6-chloro-2-(3-oxo-1-piperazinyl)-pyrazine | ClC1=CN=CC(=N1)N1CC(NCC1)=O | C8H9ClN4O
